US07192950B2
2-[1-(3,4-Dimethoxy-benzyl)-7,8-dimethoxy-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl]-2-phenyl-N-(2,2,2-trifluoro-ethyl)-acetamide
prepared by reaction of [1-(3,4-dimethoxy-benzyl)-7,8-dimethoxy-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl]-phenyl-acetic acid with 2,2,2-trifluoroethylamine.

reactant | [1-(3,4-dimethoxy-benzyl)-7,8-dimethoxy-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl]-phenyl-acetic acid | COC=1C=C(CC2N(CCCC3=C2C=C(C(=C3)OC)OC)C(C(=O)O)C3=CC=CC=C3)C=CC1OC | C29H33NO6
reactant | 2,2,2-trifluoroethylamine | FC(CN)(F)F | C2H4F3N
product | 2-[1-(3,4-Dimethoxy-benzyl)-7,8-dimethoxy-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl]-2-phenyl-N-(2,2,2-trifluoro-ethyl)-acetamide | COC=1C=C(CC2N(CCCC3=C2C=C(C(=C3)OC)OC)C(C(=O)NCC(F)(F)F)C3=CC=CC=C3)C=CC1OC | C31H35F3N2O5
